US04550166
7-(2-Pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A mixture of 2.0 g of 2'-hydrazino-2,4'-bipyridine and 50 ml of triethyl orthoformate was heated on a steam bath for 18 hours then chilled and filtered. The crystals were dissolved in methylene chloride, treated with activated carbon, filtered and the filtrate concentrated. Chilling and filtration gave 1.5 g of the desired product as cream colored crystals, mp 144-°145° C.

reactant | 2'-hydrazino-2,4'-bipyridine | 2.0 g | N(N)C1=NC=CC(=C1)C1=NC=CC=C1 | C10H10N4
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
product | 7-(2-Pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | 1.5 g | N1=C(C=CC=C1)C1=CC=2N(C=C1)C=NN2 | C11H8N4
